USRE029153
Employing the procedure of Example I above but replacing 4-methoxyphenacyl bromide with a substantially equimolecular amount of phenacyl bromide and replacing pyridine with a substantially equimolecular amount of 4-acetylpyridine there is obtained N-(phenacyl) 4-acetylpyridinium bromide, a white solid melting at 214-215° C., and which is soluble in water.

reactant | 4-methoxyphenacyl bromide | COC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2
reactant | phenacyl bromide | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | 4-acetylpyridine | C(C)(=O)C1=CC=NC=C1 | C7H7NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(phenacyl) 4-acetylpyridinium bromide | [Br-].C(C(=O)C1=CC=CC=C1)[N+]1=CC=C(C=C1)C(C)=O | InChI=1S/C15H14NO2.BrH/c1-12(17)13-7-9-16(10-8-13)11-15(18)14-5-3-2-4-6-14;/h2-10H,11H2,1H3;1H/q+1;/p-1
